US04551272
Synthesis of p-hydroxybenzoyl-L-alanyl-L-phenylalanine: 0.1 g (0.1 mol) of triethylamine was added to a suspension of 23.0 g (0.1 mol) of L-phenylalanine ethyl ester·HCl in 500 ml of dichloromethane, and to this mixture in an ice bath was added 22.3 g (0.1 mol) of carbobenzoxy-L-alanine, and then 19.2 g (0.1 mol) of 1-ethyl-3(3-dimethyaminopropyl) carbodiimide·HCl was added to the mixture. This mixture was stirred for three hours. This reaction mixture was washed with a 0.1% aqueous solution of Na2CO3 three times and with a 0.1 N HCl solution three times, and then with distilled water three times. Thereafter, the mixture was dried over anhydrous sodium sulfate, and dichloromethane was removed from the mixture under reduced pressure to obtain carbobenzoxy-L-alanyl-L-phenylalanine ethyl ester. This ester was dissolved in 260 ml of 25% HBr in glacial acetic acid, and this solution was stirred for one hour. To this solution was added 5 l of absolute ethyl ether to produce a precipitate. The precipitate was filtered and washed with ethyl ether to obtain L-alanyl-L-phenylalanine ethyl ester·HBr.

reactant | p-hydroxybenzoyl-L-alanyl-L-phenylalanine | OC1=CC=C(C(=O)N[C@@H](C)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C19H20N2O5
reactant | triethylamine | 0.1 mol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | L-phenylalanine ethyl ester·HCl | 0.1 mol, 23.0 g | C(C)OC([C@@H](N)CC1=CC=CC=C1)=O.Cl
reactant | carbobenzoxy-L-alanine | 0.1 mol, 22.3 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | carbobenzoxy-L-alanyl-L-phenylalanine ethyl ester | C(C)OC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)CC1=CC=CC=C1)=O | C22H26N2O5
